US07659287B2
Preparation of (S)-N-cyclopropyl-N-(1-phenylpiperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide
A solution of (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide prepared above in step c in Example 1 (43 mg, 0.12 mmol, 1.0 equiv.), bromobenzene (15 μL, 0.14 mmol, 1.2 equiv.), (±)-BINAP (6.7 mg, 0.011 mmol, 0.09 equiv.), and t-BuONa (28 mg, 0.29 mmol, 2.4 equiv.) in toluene (150 μL, degassed by Argon for 10 min) was treated with Pd2(dba)3 (3.3 mg, 0.0036 mmol, 0.03 equiv.) under Argon. After being stirred for 17 h at 80° C. under argon, the reaction was diluted (EtOAc) and washed (brine). The organic layer was dried (Na2SO4) and concentrated under reduced pressure. Purification of the residue by flash chromatography (SiO2, 20-50% EtOAc/Hexanes, gradient elution) gave the title compound as a pale yellow solid: 1H NMR (CDCl3, 500 MHz) δ 7.59 (d, J=8.3 Hz, 2H), 7.50 (d, J=8.5 Hz, 2H), 7.28-7.25 (m, 2H), 6.98-6.96 (m, 2H), 6.88-6.85 (m, 1H), 4.35-4.25 (m, 1H), 3.80-3.75 (m, 2H), 2.87-2.82 (m, 2H), 2.62-2.54 (m, 1H), 2.52 (s, 1H), 2.28-2.21 (m, 2H), 2.04-2.00 (m, 2H), 1.80 (s, 3H), 0.60-0.57 (m, 2H), 0.49-0.45 (m, 2H); MS(ESI) 433 [M+H]+.

reactant | (S)-N-cyclopropyl-N-(piperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C1(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CCNCC1 | C18H23F3N2O2
reactant | bromobenzene | 0.14 mmol, 15 μL, 1.2 equiv. | BrC1=CC=CC=C1 | C6H5Br
reactant | t-BuONa | 0.29 mmol, 28 mg, 2.4 equiv. | C(C)(C)(C)O[Na]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 150 μL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.0036 mmol, 3.3 mg, 0.03 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-N-cyclopropyl-N-(1-phenylpiperidin-4-yl)-4-(1,1,1-trifluoro-2-hydroxypropan-2-yl)benzamide | C1(CC1)N(C(C1=CC=C(C=C1)[C@](C(F)(F)F)(C)O)=O)C1CCN(CC1)C1=CC=CC=C1 | C24H27F3N2O2
